US08017605B2
Step A: 2,4,6-trifluorobenzoyl Chloride
To a DCM 200 mL solution of 2,4,6-trifluorobenzoic acid (20 g, 0.11 mol) and DMF (0.5 mL, 6.46 mmol) was added oxalyl chloride (21.6 g, 0.17 mol) dropwise. The reaction mixture was stirred at room temperature for 1 hr and the solvent was removed under reduced pressure to give the title compound as crude product (22 g).

reactant | 2,4,6-trifluorobenzoic acid | 0.11 mol, 20 g | FC1=C(C(=O)O)C(=CC(=C1)F)F | C7H3F3O2
reactant | DMF | 6.46 mmol, 0.5 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 0.17 mol, 21.6 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 2,4,6-trifluorobenzoyl Chloride | FC1=C(C(=O)Cl)C(=CC(=C1)F)F | C7H2ClF3O
